US08604065B2
6. 2-(7-hydroxyheptyl)isoindol-1,3-dione
585 mg of 7-bromoheptanol was dissolved in 5 mL of DMF. 833 mg of potassium phthalimidate was added, and the mixture was stirred for 4 h. 50 mL of water and 50 mL of DCM were added to the reaction system, which was violently vibrated and then isolated. The water layer was once again extracted with 50 mL of DCM. The two organic layers were combined, successively washed with 100 mL of water and 100 mL of saturated sodium chloride aqueous solution, dried over 5 g of anh. MgSO4 for 30 min, and concentrated via a rotary evaporator to obtain a pale yellow transparent oily liquid.

reactant | 7-bromoheptanol | 585 mg | BrCCCCCCCO | C7H15BrO
reactant | potassium phthalimidate | 833 mg | C(C=1C(C([O-])=N)=CC=CC1)([O-])=N.[K+].[K+]
reactant | water | 50 mL | O | H2O
reactant | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(7-hydroxyheptyl)isoindol-1,3-dione | OCCCCCCCN1C(C2=CC=CC=C2C1=O)=O | C15H19NO3
